US05783522
Ethyl (±)-2-[2-Chloro-5-(3-chloro-5-trifluoromethyl-2-pyridinyl)phenylsulfonylamino]propionate (Table 1, Example I.179)
4.0 g of 3-chloro-2-(4-chloro-3-chlorosulfonylphenyl)-5-trifluoromethylpyridine, 2.4 g of D,L-alanine ethyl ester hydrochloride and 5.2 g of triethylamine in 50 ml of anhydrous tetrahydrofuran were stirred at 23° C. for 18 hours, after which the mixture was concentrated. The residue was taken up in 100 ml of methylene chloride. The solution was extracted twice with 30 ml of water each time, dried over sodium sulfate and concentrated. Chromatography of the residue on silica gel with cyclohexane/ethyl acetate (4:1) resulted in 2.8 g of a colorless oil. Yield: 58%;

reactant | 3-chloro-2-(4-chloro-3-chlorosulfonylphenyl)-5-trifluoromethylpyridine | 4.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)S(=O)(=O)Cl | C12H5Cl3F3NO2S
reactant | D,L-alanine ethyl ester hydrochloride | 2.4 g | Cl.C(C)OC(C(N)C)=O
reactant | triethylamine | 5.2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl (±)-2-[2-Chloro-5-(3-chloro-5-trifluoromethyl-2-pyridinyl)phenylsulfonylamino]propionate | 2.8 g, Yield: 58% | ClC1=C(C=C(C=C1)C1=NC=C(C=C1Cl)C(F)(F)F)S(=O)(=O)NC(C(=O)OCC)C | C17H15Cl2F3N2O4S
